US08476253B2
Ethyl 6-(methylamino)hexanoate
Ethyl 6-bromohexanoate (6.00 g, 26.9 mmol) and benzylmethylamine (6.52 g, 53.8 mmol) were used to give the title compound (4.65 g; yield, 99%) as a colorless oily substance according to the method described in Example 68a.

reactant | Ethyl 6-bromohexanoate | 26.9 mmol, 6.00 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | benzylmethylamine | 53.8 mmol, 6.52 g | C(C1=CC=CC=C1)CN | C8H11N
product | Ethyl 6-(methylamino)hexanoate | 4.65 g, 99% | CNCCCCCC(=O)OCC | C9H19NO2
